US05716984
(1RS, 2SR, 3RS )-3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indan-2-ylacetic acid
1RS, 2RS, 3RS)-3-(2-Carbo-t-butoxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane. To a solution of 1RS, 2RS, 3RS)-2-cyanomethyl-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane (250 mg, 0.55 mmol) in DMF (4 ml) stirred at 0° C. under argon added NaH (21 mg of 80% oil dispersion, 0.7 mmol). The mixture stirred at 0° C. for 15 min then t -butylbromoacetate (107 mg, 0.55 mmol) was added. The cooling bath was removed and the mixture was stirred for 3 h at room temperature then partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O, saturated NaHCO3 solution, H2O, then brine, dried (Na2SO4) and solvent removed in vacuo. The residue was purified by flash chromatography on silica gel, (eluent 25-50% Et2O/hexanes) to afford the title compound as an oil (247 mg, 79%).

reactant | 3-(2-Carbo-t-butoxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | C(=O)(OC(C)(C)C)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)CC#N | C34H37NO7
reactant | 2-cyanomethyl-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 0.55 mmol, 250 mg | C(#N)CC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)O)OCCC)C1=CC2=C(C=C1)OCO2 | C28H27NO5
reactant | NaH | 0.7 mmol, 21 mg | [H-].[Na+]
reactant | butylbromoacetate | 0.55 mmol, 107 mg | C(CCC)OC(CBr)=O | C6H11BrO2
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indan-2-ylacetic acid | 247 mg, 79% | C(=O)(O)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)CC(=O)O | C30H30O9
